US08247415B2
Preparation of [6-oxopyrimidin-1(6H)-yl]acetic acid (i-34)
To pyrimidin-4(3H)-one (0.608 g, 6.33 mmol) was added 5 N sodium hydroxide solution (2.5 mL) followed by chloroacetic acid (0.598 g, 6.33 mmol). The reaction mixture was heated at 105° C. for 2 h. After cooled down to ambient temperature, it was neutralized with 2 N hydrochloric acid (3.2 mL) and then directly purified by reverse phase HPLC (TMC Pro-Pac C18; 0-40% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient). Removal of the volatiles in vacuo afforded the title compound as a white solid. 1H NMR (DMSO-d6): δ 13.2 (s, 1H), 8.43 (s, 1H), 7.94 (d, J=6.7 Hz, 1H), 6.43 (d, J=6.6 Hz, 1H), 4.63 (s, 2H). LC/MS 155.1 (M+1).

reactant | pyrimidin-4(3H)-one | 6.33 mmol, 0.608 g | N1=CNC(C=C1)=O | C4H4N2O
reactant | sodium hydroxide | 5 N, 2.5 mL | [OH-].[Na+]
reactant | chloroacetic acid | 6.33 mmol, 0.598 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 2 N, 3.2 mL | Cl | ClH
product | [6-oxopyrimidin-1(6H)-yl]acetic acid | O=C1C=CN=CN1CC(=O)O | C6H6N2O3
